US06242620B1
Preparation of Methyl Isostearate
About 780 grams of isostearic acid (acid number=194.4), 1 gram of p-toluenesulfonic acid were charged to a flask equipped with a heating mantle, stirrer, sub-surface inlet tube with a nitrogen purge and a condenser. The contents of the flask were heated under nitrogen flow to 117° C. About 400 grams of methanol were then added via the sub-surface inlet tube over 3.5 hours (acid number=9.6), 200 grams of additional methanol were added and the reaction continued for another 1.5 hours to obtain a final acid number of 0.6.

reactant | isostearic acid | 780 grams | C(CCCCCCCCCCCCCCC(C)C)(=O)O | C18H36O2
reactant | p-toluenesulfonic acid | 1 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Methyl Isostearate | C(CCCCCCCCCCCCCCC(C)C)(=O)OC | C19H38O2
